US04006145
18.6 g of sodium cyanide in 222 ml of dimethyl sulphoxide are treated at 50° C with 74 g of 3-fluoro-6-(phenylthio)-benzyl chloride in 75 ml of dimethyl sulphoxide in one portion. The resulting dark solution is stirred at 45°-50° C for 1 hour, subsequently poured on to 1500 ml of ice-water and extracted with ether. The organic phase is washed three times with 500 ml of water each time, dried over sodium sulphate and evaporated. There is obtained 3-fluoro-6-(phenylthio)-phenylacetonitrile as a reddish oil.

reactant | sodium cyanide | 18.6 g | [C-]#N.[Na+]
reactant | 3-fluoro-6-(phenylthio)-benzyl chloride | 74 g | FC=1C=C(CCl)C(=CC1)SC1=CC=CC=C1 | C13H10ClFS
solvent | dimethyl sulphoxide | 222 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 75 ml | CS(=O)C | C2H6OS
product | 3-fluoro-6-(phenylthio)-phenylacetonitrile | FC=1C=C(C(=CC1)SC1=CC=CC=C1)CC#N | C14H10FNS
